US04509970
To a solution of ethyl 2-[P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate (500 mg) in tetrahydrofuran (10 ml) is added hydrazine (1 eq.) and 5% rhodium on activated charcoal (50 mg) at 15°-25°, with stirring for 2 hours. The reaction is then filtered and the filtrate is diluted with methylene chloride, washed, dried and concentrated to dryness to give ethyl 2-[P-ethyl-2-hydroxyamino-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate.

reactant | ethyl 2-[P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate | 500 mg | C(C)P(=O)(ON=C(C(=O)OCC)C)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C20H19ClF3N2O7P
reactant | hydrazine | 1 eq. | NN | H4N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | rhodium on activated charcoal | 50 mg | [Rh] | Rh
product | ethyl 2-[P-ethyl-2-hydroxyamino-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate | C(C)P(=O)(ON=C(C(=O)OCC)C)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NO | C20H21ClF3N2O6P
